US08912180B2
To a mixture of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-[(3S)-pyrrolidin-3-yl]pyrimidin-2-amine dihydrochloride (58 mg) and N,N-dimethylformamide (1.2 mL) were added phenylacetaldehyde (21 mg), sodium triacetoxyborohydride (75 mg), and acetic acid (0.29 mL), and the mixture was stirred at room temperature overnight. To the reaction mixture was added a saturated aqueous sodium bicarbonate solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by amino silica gel column chromatography (chloroform:methanol=100:0-90:10) to obtain 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-[(3S)-1-(2-phenylethyl)pyrrolidin-3-yl]pyrimidin-2-amine (30 mg) as a white powder.

reactant | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-[(3S)-pyrrolidin-3-yl]pyrimidin-2-amine dihydrochloride | 58 mg | Cl.Cl.FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)N[C@@H]1CNCC1)C=CC=C2)F
reactant | phenylacetaldehyde | 21 mg | C1(=CC=CC=C1)CC=O | C8H8O
reactant | sodium triacetoxyborohydride | 75 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 0.29 mL | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-[(3S)-1-(2-phenylethyl)pyrrolidin-3-yl]pyrimidin-2-amine | 30 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)N[C@@H]1CN(CC1)CCC1=CC=CC=C1)C=CC=C2)F | C28H31F2N7O
